US07625888B2
Step A: N-(3-Bromopropyl)-3-(trifluoromethyl)-1H-pyrazole-5-carboxamide
To a solution of 500 mg (2.78 mmol) of 3-(trifluoromethyl)-1H-pyrazole-5-carboxylic acid, 682 mg (3.05 mmol) of 3-bromopropylamine hydrobromide, and 1.4 mL (1.04 g, 8.04 mmol) of N,N-diisopropylethylamine in 20 mL of dichloromethane were added 1.2 g (3.06 mmol) of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) and 459 mg (3.38 mmol) of 1-hydroxy-7-azabenzotriazole (HOAT). After being stirred at room temperature for 45 min, the reaction mixture was partitioned between dichloromethane and saturated sodium carbonate aqueous solution. The organic phase was washed with 5% aqueous citric acid solution, then dried over sodium sulfate, and concentrated. The residue was leached with dichloromethane containing a little methanol. Concentration of the organic extract yielded the title compound. LC-MS 300, 302 (M+1).

reactant | 3-(trifluoromethyl)-1H-pyrazole-5-carboxylic acid | 2.78 mmol, 500 mg | FC(C1=NNC(=C1)C(=O)O)(F)F | C5H3F3N2O2
reactant | 3-bromopropylamine hydrobromide | 3.05 mmol, 682 mg | Br.BrCCCN
reactant | N,N-diisopropylethylamine | 8.04 mmol, 1.4 mL, 1.04 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.06 mmol, 1.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxy-7-azabenzotriazole | 3.38 mmol, 459 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(3-Bromopropyl)-3-(trifluoromethyl)-1H-pyrazole-5-carboxamide | BrCCCNC(=O)C1=CC(=NN1)C(F)(F)F | C8H9BrF3N3O
